US04083948
7-Chloro-1,3-dihydro-5-(4-hydroxyphenyl)-1-methyl-2H-1,4-benzodiazepin-2-on
To a solution of 6.5 g (0.022 mole) of 7-chloro-1,3-dihyro-5-(4-hydroxyphenyl)-2H-1,4-benzodiazepin-2-one in 40 ml of dimethylformamide was added 11.6 ml (0.055 mole) of 4.74 M sodium methoxide in methanol. After 90 min, the mixture was cooled in an ice bath and 9.4 g (0.066 mole) of methyl iodide was added dropwise with stirring. After 18 hr at room temperature the reaction mixture was acidified with acetic acid, and partitioned between 100 ml of dichloromethane and 100 ml of water. The water layer was extracted once more with dichloromethane. The combined dichloromethane extracts were evaporated to dryness. The residual product mixture was separated on a column of Florisil. The column was eluted with dichloromethane, ether and then ethyl acetate. The ethyl acetate fraction was evaporated and crystallized from methanol to give 0.40 g (6%) of product as colorless prisms, mp 225°-259°.

reactant | 7-chloro-1,3-dihyro-5-(4-hydroxyphenyl)-2H-1,4-benzodiazepin-2-one | 0.022 mole, 6.5 g | ClC=1C=CC2=C(C(=NCC(N2)=O)C2=CC=C(C=C2)O)C1 | C15H11ClN2O2
reactant | sodium methoxide | 0.055 mole, 4.74 M, 11.6 ml | C[O-].[Na+]
reactant | methyl iodide | 0.066 mole, 9.4 g | CI | CH3I
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | methanol | CO | CH4O
product | 7-Chloro-1,3-dihydro-5-(4-hydroxyphenyl)-1-methyl-2H-1,4-benzodiazepin-2-on | 0.40 g, 6% | ClC=1C=CC2=C(C(=NCC(N2C)=O)C2=CC=C(C=C2)O)C1 | C16H13ClN2O2
